US06255333B1
1-(2,6-Dichloro-4-trifluoromethylphenyl)-4-ethenyl-3-trifluoromethylpyrazole
A solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodo-3-trifluoromethylpyrazole (1 g) in dimethylformamide (5 ml) containing vinyltri-n-butyltin (2 ml) and tetrakis(triphenylphosphine)palladium(0) (0.1 g) was stirred at 75° C. for 3 hours. The reaction mixture was evaporated and then partitioned between water and ether. The organic layer was separated, washed with water (×5), dried (Na2SO4) and evaporated. The residue was crystailised from hexane and further purified by column chromatography on silica gel eluted with ether. Combination and evaporation of appropriate fractions gave a yellow solid which was further purified by reverse phase high performance chromatography on C18 silica eluted with acetonitrile: methanol: water (40:10:50). Combination and evaporation of appropriate fractions, followed by recrystallisation from propan-2-ol, gave the title compound as a light yellow solid, m.p.95-98° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodo-3-trifluoromethylpyrazole | 1 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)I)C(F)(F)F | C11H3Cl2F6IN2
reactant | vinyltri-n-butyltin | 2 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-4-ethenyl-3-trifluoromethylpyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C=C)C(F)(F)F | C13H6Cl2F6N2
